US06951875B2
b) 6,7-Dihydro-benzo[b]thiophene-5-boronic acid
Following the general method described in example 19a, 5-bromo-6,7-dihydro-benzo[b]thiophene was reacted with tert.-butyllithium solution followed by triisopropylborate and 3N HCl. The title compound was obtained as a white crystalline material after chromatography (SiO2 with CH2Cl2-MeOH=98:2). MS: m/e=179 (M-H−).

reactant | 5-bromo-6,7-dihydro-benzo[b]thiophene | BrC1=CC2=C(SC=C2)CC1 | C8H7BrS
reactant | tert.-butyllithium | C(C)(C)(C)[Li]
reactant | triisopropylborate | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 3N | Cl | ClH
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 6,7-Dihydro-benzo[b]thiophene-5-boronic acid | S1C2=C(C=C1)C=C(CC2)B(O)O | C8H9BO2S
